datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCC[NH2+:10][H:20] 10=20;20,21=21",
"CCC[NH:10]CC[S-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCC[NH+:10](CC[S-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC#CC#CCC(=O)[O:21][H:20].COc1cc(S(C)=O)ccc1-c1cn2cccnc2[n:10]1>>CC#CC#CCC(=O)[O-:21].COc1cc(S(C)=O)ccc1-c1cn2cccnc2[n+:10]1[H:20] 10=20;20,21=21",
"O=C(/C=C/CCl)[O-:10].O=C(O)[C@@H]1CC[C@@H](C(=O)[O:21][H:20])[Se]1>>O=C(/C=C/CCl)[O:10][H:20].O=C(O)[C@@H]1CC[C@@H](C(=O)[O-:21])[Se]1 10=20;20,21=21",
"C1CC[NH+](CC[N:10]2CCCCC2)CC1.CC(CCc1ccc(O)cc1)[NH2+:21][H:20]>>C1CC[NH+](CC[N+:10]2([H:20])CCCCC2)CC1.CC(CCc1ccc(O)cc1)[NH2:21] 10=20;20,21=21",
"C#CCCCCC[NH2:10].C[Si](C)(CCl)CCCC(=O)[O:21][H:20]>>C#CCCCCC[NH2+:10][H:20].C[Si](C)(CCl)CCCC(=O)[O-:21] 10=20;20,21=21",
"C[C:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)([N+](=O)[O-])[H:20].C[NH+](c1ccccc1)C([O-])[O-:10]>>C[C-:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[N+](=O)[O-].C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"C[NH2+]CCN(C)CC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH2+]CCN(C)CC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(Cl)cc2)CCC1(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(Cl)cc2)[H:20])CCC1(C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C([O-])C[N:10](CC(=O)[O-])Cc1ccccc1[O-].c1ccc2[nH]c(C[NH2+:21][H:20])nc2c1>>O=C([O-])C[N+:10](CC(=O)[O-])(Cc1ccccc1[O-])[H:20].c1ccc2[nH]c(C[NH2:21])nc2c1 10=20;20,21=21",
"CCCCCCCCCCCCCCCC[NH2:10].Nc1ccc2c[n+:21]([H:20])[nH]c2c1>>CCCCCCCCCCCCCCCC[NH2+:10][H:20].Nc1ccc2c[n:21][nH]c2c1 10=20;20,21=21",
"NCCNCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NCCNCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCOc1ccccc1C(=O)[O:21][H:20].COc1ccc([N+](=O)[O-])c2ccc[n:10]c12>>CCOc1ccccc1C(=O)[O-:21].COc1ccc([N+](=O)[O-])c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"C/C=C/C1=C([O-:10])C(=O)c2ccccc2C1=O.O=C(c1c[nH]c2ccccc12)[O:21][H:20]>>C/C=C/C1=C([O:10][H:20])C(=O)c2ccccc2C1=O.O=C(c1c[nH]c2ccccc12)[O-:21] 10=20;20,21=21",
"COc1ccc([O-:10])c(C)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc([O:10][H:20])c(C)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[Si](C)(C)CC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[Si](C)(C)CC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCOC(=O)c1ccc(CC[NH2:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCOC(=O)c1ccc(CC[NH2+:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(c1cccc(-c2nnn[nH]2)c1)[O-:10].[NH3+]CCCC#CC#CCCC(=O)[O:21][H:20]>>O=C(c1cccc(-c2nnn[nH]2)c1)[O:10][H:20].[NH3+]CCCC#CC#CCCC(=O)[O-:21] 10=20;20,21=21",
"C[NH:10]Cc1ccccn1.O=C1CCC([O:21][H:20])=C1O>>C[NH+:10](Cc1ccccn1)[H:20].O=C1CCC([O-:21])=C1O 10=20;20,21=21",
"CCOCC[NH+:21](c1ccc(OC)cc1)[H:20].Cn1n[n:10]cc1Nc1ccccc1>>CCOCC[NH:21]c1ccc(OC)cc1.Cn1n[n+:10]([H:20])cc1Nc1ccccc1 10=20;20,21=21",
"CC[NH:10]C[Si](C)(C)C.[NH3+]c1ccc(C(=O)c2ccc([NH2+:21][H:20])cc2)cc1>>CC[NH+:10](C[Si](C)(C)C)[H:20].[NH3+]c1ccc(C(=O)c2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"COc1ccc([Se][O-:10])c([N+](=O)[O-])c1.O=C([O-])C(NCC[NH+:21](C(C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-]>>COc1ccc([Se][O:10][H:20])c([N+](=O)[O-])c1.O=C([O-])C(NCC[NH:21]C(C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-] 10=20;20,21=21",
"O=[N+]([O-])c1c[n+:21]([H:20])c([O-])[nH+]c1[O-].c1cc([O-:10])c2nnccc2c1>>O=[N+]([O-])c1c[n:21]c([O-])[nH+]c1[O-].c1cc([O:10][H:20])c2nnccc2c1 10=20;20,21=21",
"CC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>CC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"O=C(c1ccc(/N=C/c2ccccc2)cc1)[O:21][H:20].O=P([O-])(C([NH2+]Cc1ccncc1)c1ccccc1O)[O-:10]>>O=C(c1ccc(/N=C/c2ccccc2)cc1)[O-:21].O=P([O-])(C([NH2+]Cc1ccncc1)c1ccccc1O)[O:10][H:20] 10=20;20,21=21",
"CC1CNCC[NH:10]1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC1CNCC[NH+:10]1[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCCNCC[NH:10]CCC.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCNCC[NH+:10](CCC)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.COc1ccc(-c2cc3c[n+:21]([H:20])ccc3[nH]2)c(OC)c1>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.COc1ccc(-c2cc3c[n:21]ccc3[nH]2)c(OC)c1 10=20;20,21=21",
"CC(C)[NH+:21](CC(O)COc1cccc2ccccc12)[H:20].C[n+]1ccc2cccc([O-:10])c2c1>>CC(C)[NH:21]CC(O)COc1cccc2ccccc12.C[n+]1ccc2cccc([O:10][H:20])c2c1 10=20;20,21=21",
"CC(C)[NH:10]CCc1ccc([O-])cc1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Clc1ccc([NH:10]c2ccccc2)cc1.O=C(c1cc2ccccc2[nH]1)[O:21][H:20]>>Clc1ccc([NH+:10](c2ccccc2)[H:20])cc1.O=C(c1cc2ccccc2[nH]1)[O-:21] 10=20;20,21=21",
